US05051424
1-[3-(2-chlorophenyl)propyl]-4-[2-[(2-phenoxyphenyl)-methoxy]ethyl]piperazine dihydrochloride
A solution of 4.1 g (8.5 mmol) of 1-[3-(2-chlorophenyl)propyl]-4-[1-oxo-2-[(2-phenoxyphenyl)methoxy]ethyl]piperazine in 95 ml of dry ether was added dropwise, under nitrogen and with stirring, to a suspension of 1.26 g (33.1 mmol) of lithium aluminium hydride in 63 ml of dry ether. The reaction mixture was stirred at room temperature for 2 hours and cooled to 5° C., after which 5 ml of water were added dropwise. The precipitate was filtered off and the filtrate evaporated. The crude product was dissolved in 15 ml of ethanol, to which 4 ml of 5 N HCl in ethanol was added. The precipitate was filtered off and recrystallized from 20 ml of ethanol. Yield 2.8 g (61%), m.p. 200° C.

reactant | 1-[3-(2-chlorophenyl)propyl]-4-[1-oxo-2-[(2-phenoxyphenyl)methoxy]ethyl]piperazine | 8.5 mmol, 4.1 g | ClC1=C(C=CC=C1)CCCN1CCN(CC1)C(COCC1=C(C=CC=C1)OC1=CC=CC=C1)=O | C28H31ClN2O3
reactant | lithium aluminium hydride | 33.1 mmol, 1.26 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 5 ml | O | H2O
solvent | ether | 95 ml | CCOCC | C4H10O
solvent | ether | 63 ml | CCOCC | C4H10O
product | 1-[3-(2-chlorophenyl)propyl]-4-[2-[(2-phenoxyphenyl)-methoxy]ethyl]piperazine dihydrochloride | Cl.Cl.ClC1=C(C=CC=C1)CCCN1CCN(CC1)CCOCC1=C(C=CC=C1)OC1=CC=CC=C1 | InChI=1S/C28H33ClN2O2.2ClH/c29-27-14-6-4-9-24(27)11-8-16-30-17-19-31(20-18-30)21-22-32-23-25-10-5-7-15-28(25)33-26-12-2-1-3-13-26;;/h1-7,9-10,12-15H,8,11,16-23H2;2*1H
